US04061761
4-(4-Chloro-3-sulfamoylphenyl)-3-isobutyl-2-isobutylimino-1,3-thiazolidine-4-ol-hydrochloride
5.3 g of 2,4'-dichloro-3'-sulfamoylacetophenone and 3.8 g of 1,3-diisobutylthiourea were reacted according to the prescription made in Example 16 and worked up as described in Example 25.

reactant | 2,4'-dichloro-3'-sulfamoylacetophenone | 5.3 g | ClCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7Cl2NO3S
reactant | 1,3-diisobutylthiourea | 3.8 g | C(C(C)C)NC(=S)NCC(C)C | C9H20N2S
product | 4-(4-Chloro-3-sulfamoylphenyl)-3-isobutyl-2-isobutylimino-1,3-thiazolidine-4-ol-hydrochloride | Cl.ClC1=C(C=C(C=C1)C1(N(C(SC1)=NCC(C)C)CC(C)C)O)S(N)(=O)=O | InChI=1S/C17H26ClN3O3S2.ClH/c1-11(2)8-20-16-21(9-12(3)4)17(22,10-25-16)13-5-6-14(18)15(7-13)26(19,23)24;/h5-7,11-12,22H,8-10H2,1-4H3,(H2,19,23,24);1H
